US07396487B2
The Synthesis of 3,4,5-trifluorophenyl 4-(2-methoxyethoxy)benzoate (Compound 5 in Table 1)
A solution of 3,4,5-trifluorophenol (0.38 g, 2.55×10−3 mol) in dichloromethane (10 cm3) was added to a solution of N,N-dicyclohexylcarbodiimide (0.63 g, 3.06×10−3 mol), 4-(2-methoxyethoxy)benzoic acid (0.50 g, 2.55×10−3 mol), 4-(dimethylamino)pyridine (0.03 g 2.55×10−4mol) in dichloromethane (5 cm3), at 0° C. and then left to stirred overnight, filtered to remove precipitated material (DCU) and the filtrate evaporated down under reduced pressure. The crude product was purified by column chromatography on silica gel using a 1:1 dichloromethane-petroleum ether (40°-60° C.) mixture as eluent, followed by recrystalisation from ethanol. Yield 0.32 g (38%), GC purity (99.76%).

reactant | 3,4,5-trifluorophenol | 2.55×10−3 mol, 0.38 g | FC=1C=C(C=C(C1F)F)O | C6H3F3O
reactant | 4-(2-methoxyethoxy)benzoic acid | 2.55×10−3 mol, 0.50 g | COCCOC1=CC=C(C(=O)O)C=C1 | C10H12O4
solvent | dichloromethane | 10 cm3 | ClCCl | CH2Cl2
catalyst | 4-(dimethylamino)pyridine | 2.55×10−4mol, 0.03 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 5 cm3 | ClCCl | CH2Cl2
product | 3,4,5-trifluorophenyl 4-(2-methoxyethoxy)benzoate | COCCOC1=CC=C(C(=O)OC2=CC(=C(C(=C2)F)F)F)C=C1 | C16H13F3O4
